US04882084
Racemic(±)-4-octyloxy-4'-(1-hydroxyethyl)biphenyl (m.p. 110.9°-111.9° C.) and tributyrin were biochemically transesterified. The obtained 7.0 g (21 mmol) of optically active (-)-4-octyloxy-4'-(1-hydroxyethyl)biphenyl (m.p. 123.6° C., [α]D 24.5 -27.0° (c 1.0, CHCl3)), 7.5 g(36 mmol) of N,N'-dicyclohexylcarbodiimide (abbreviated as DCC) and 1.0 g of 4-dimethylaminopyridine (abbreviated as DMAP) were dissolved in 200 ml of dichloromethane. To the solution, 3.4 g (29 mmol) of caproic acid was added, and the mixture was stirred for six hours at room temperature. The deposited crystals were filtered, 200 ml of water was added to the filtrate, and the organic layer was separated. 6N hydrochloric acid was added to the organic solution, and then the solution was neutralized with the aqueous solution of 2N sodium hydroxide. The neutralized solution was washed with water until the washed water became neutral. The solvent and low-boiling fractions were distilled away from the obtained solution. The residue was recrystallized from ethanol and the desired (-)-4-octyloxy-4'-(1-hexanoyloxyethyl)biphenyl 6.8 g was obtained. The melting point of the obtained biphenyl was 60.8° C. and its specific optical rotation was -78.4° at 25.3° C. for D line (c 0.88, C2H5OH).

reactant | tributyrin | O=C(OCC(COC(CCC)=O)OC(CCC)=O)CCC | C15H26O6
reactant | (-)-4-octyloxy-4'-(1-hydroxyethyl)biphenyl | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)O | C22H30O2
reactant | N,N'-dicyclohexylcarbodiimide | 36 mmol, 7.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | caproic acid | 29 mmol, 3.4 g | C(CCCCC)(=O)O | C6H12O2
catalyst | 4-dimethylaminopyridine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (-)-4-octyloxy-4'-(1-hexanoyloxyethyl)biphenyl | 6.8 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)OC(CCCCC)=O | C28H40O3
